US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-[6-(3-nitrophenoxy)-1,3-benzothiazol-2-yl]cyclopropanecarboxamide (1.80 g, 5.53 mmol) in methanol (20 mL) was added palladium carbon (50% water-containing product, 100 mg), and the mixture was stirred at room temperature for 5 hr under a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. Reduced iron (309 mg), calcium chloride (613 mg, 5.53 mmol), ethanol (10 mL) and water (2 mL) were added to the residue, and the mixture was stirred for 2 hr. The reaction mixture was filtered through celite, and the filtrate was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). Triethylamine (192 μL) and 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (220 mg, 1.39 mmol) were added with stirring under ice-cooling, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=70/30→0/100) and recrystallized from ethyl acetate-tetrahydrofuran to give the title compound (126 mg, 5.1%) as a white solid.

reactant | N-[6-(3-nitrophenoxy)-1,3-benzothiazol-2-yl]cyclopropanecarboxamide | 5.53 mmol, 1.80 g | [N+](=O)([O-])C=1C=C(OC2=CC3=C(N=C(S3)NC(=O)C3CC3)C=C2)C=CC1 | C17H13N3O4S
reactant | calcium chloride | 5.53 mmol, 613 mg | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 1.39 mmol, 220 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
catalyst | palladium carbon | 100 mg | [C].[Pd]
solvent | water | 2 mL | O | H2O
solvent | Triethylamine | 192 μL | C(C)N(CC)CC | C6H15N
product | N-[3-({2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 126 mg, 5.1% | C1(CC1)C(=O)NC=1SC2=C(N1)C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C | C23H21N5O3S
